US09193723B2
2-[(4-cyanobenzyl)(3-methylbutanoyl)amino]-N-(imidazo[1,2-a]pyridin-6-yl)-1,3-thiazole-5-carboxamide
The title compound was prepared as described in Example 52A, substituting 3-methylbutanoyl chloride for 2-cyclopentylacetyl chloride and 2-(4-cyanobenzylamino)-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide for methyl 4-aminobenzoate. 1H NMR (400 MHz, DMSO-d6) δ 10.75 (s, 1H), 9.62 (s, 1H), 8.43 (d, J=1.6 Hz, 1H), 8.32 (s, 1H), 8.11 (s, 1H), 7.99-7.89 (m, 2H), 7.82 (dd, J=18.8, 8.3 Hz, 2H), 7.38 (d, J=8.3 Hz, 2H), 5.63 (s, 2H), 2.14 (dt, J=13.4, 6.7 Hz, 1H), 0.88 (d, J=6.7 Hz, 6H); (APCI(+)) m/e 459 (M+H)+.

reactant | 2-cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | 2-(4-cyanobenzylamino)-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide | C(#N)C1=CC=C(CNC=2SC(=CN2)C(=O)NC=2C=CC=3N(C2)C=CN3)C=C1 | C19H14N6OS
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | 2-[(4-cyanobenzyl)(3-methylbutanoyl)amino]-N-(imidazo[1,2-a]pyridin-6-yl)-1,3-thiazole-5-carboxamide | C(#N)C1=CC=C(CN(C=2SC(=CN2)C(=O)NC=2C=CC=3N(C2)C=CN3)C(CC(C)C)=O)C=C1 | C24H22N6O2S
